US09120749B2
1-{4-[trans-4-Aminocyclohexylamino]-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-3-yl}-2-methylpropan-1-one
Following general procedure A-2, tert-butyl trans-4-[6-(3-chloro-5-fluoro-4-hydroxyphenyl)-3-isobutyrylquinolin-4-ylamino]cyclohexylcarbamate (56 mg, 0.100 mmol) was reacted with TFA (2 mL) to afford the desired product (28 mg, 61%) as a yellow solid: 1H NMR (500 MHz, CD3OD) δ 8.96 (s, 1H), 8.31 (d, J=1.8 Hz, 1H), 7.99 (dd, J=8.7, 1.9 Hz, 1H), 7.90 (d, J=8.7 Hz, 1H), 7.51-7.47 (m, 1H), 7.39 (dd, J=11.8, 2.3 Hz, 1H), 4.23-4.15 (m, 1H), 3.82-3.69 (m, 1H), 3.28-3.18 (m, 1H), 2.39 (d, J=12.7 Hz, 2H), 2.19 (d, J=12.0 Hz, 2H), 1.71 (q, J=10.5 Hz, 2H), 1.62-1.53 (m, 2H), 1.24 (d, J=6.8 Hz, 6H), ESI MS m/z 456[C25H27ClFN3O2+H]+; HPLC 98.1% (AUC), tR=10.69 min.

reactant | tert-butyl trans-4-[6-(3-chloro-5-fluoro-4-hydroxyphenyl)-3-isobutyrylquinolin-4-ylamino]cyclohexylcarbamate | 0.100 mmol, 56 mg | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(C(C)C)=O)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C30H35ClFN3O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-{4-[trans-4-Aminocyclohexylamino]-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-3-yl}-2-methylpropan-1-one | 28 mg, 61% | N[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)F)O)Cl)C(C(C)C)=O | C25H27ClFN3O2
